US05128230
Alpha,alpha'-bis(2,4-dihydroxyphenyl)-1,3-diisopropylbenzene
88.1 g Resorcinol, 15.8 g m-diisopropenylbenzene, 2.0 g p-toluenesulfonic acid monohydrate in 150 ml of ethanol were reacted for 41 hours at ambient temperature. The product was precipitated from water, washed with water, and vacuum dried at 60° C. About 33.7 g of a product mixture was obtained that was at least 92 percent pure.

reactant | Resorcinol | 88.1 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | m-diisopropenylbenzene | 15.8 g | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
reactant | p-toluenesulfonic acid monohydrate | 2.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | Alpha,alpha'-bis(2,4-dihydroxyphenyl)-1,3-diisopropylbenzene | 33.7 g | OC1=C(C=CC(=C1)O)C(C)(C)C1=CC(=CC=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C24H26O4
